US07253196B2
To a 100 mL round-bottomed flask equipped with magnetic stirring was added a solution of 1-benzoyl-3-(4-(4-(methylsulfonyl)phenyl)bicyclo[2.2.2]octan-1-yl)thiourea (185 mg, 418 μmol) suspended in THF (1.5 mL) and methanol (3 mL). A solution of potassium carbonate (289 mg, 2090 μmol) in 1.5 mL of water was added, and the reaction mixture was stirred at ambient temperature. After 3.5 h, 3 mL more of THF was added. Then after 22.5 h, the lower boiling solvents of the reaction mixture were removed in vacuo. Water was added, and the aqueous layer was extracted with EtOAc (1×10 mL), CH2Cl2 (3×10 mL), and EtOAc (1×20 mL). The aqueous layer was the saturated with solid NaCl, and it was extracted with THF (3×10 mL). All organic layers were combined along with 30 mL more THF and dried over K2CO3, filtered, and concentrated in vacuo. The residue was absorbed onto silica gel and purified on a 40 g silica gel column using 1:2 hexanes-EtOAc+2% MeOH as the eluant followed by 1:2 hexanes-EtOAc+4.5% MeOH. Purified 1-(4-(4-(methylsulfonyl)phenyl)bicyclo[2.2.2]octan-1-yl)thiourea was isolated from the chromatography (43 mg, white solid, Mass spec. m/z+ion=339.2).

reactant | 1-benzoyl-3-(4-(4-(methylsulfonyl)phenyl)bicyclo[2.2.2]octan-1-yl)thiourea | 418 μmol, 185 mg | C(C1=CC=CC=C1)(=O)NC(=S)NC12CCC(CC1)(CC2)C2=CC=C(C=C2)S(=O)(=O)C | C23H26N2O3S2
reactant | potassium carbonate | 2090 μmol, 289 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 1.5 mL | O | H2O
product | 1-(4-(4-(methylsulfonyl)phenyl)bicyclo[2.2.2]octan-1-yl)thiourea | CS(=O)(=O)C1=CC=C(C=C1)C12CCC(CC1)(CC2)NC(=S)N | C16H22N2O2S2
